* Z:\mnt\design.r\spice\examples\1001S8.asc
V1 +V 0 15
V2 -V 0 -15
R1 N002 N001 10K
V3 IN 0 SINE(0 10 100)
D1 N002 N004 1N4148
R2 N001 IN 10K
R3 N005 N001 10K
R4 N003 N002 10K
R5 OUT N003 10K
D2 N004 N005 1N4148
XU1 0 N001 +V -V N004 LT1001
XU2 N005 N003 +V -V OUT LT1001
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 30m
* Precision Absolute Value Circuit
.lib LTC.lib
.backanno
.end
